US05234946
104 mg of 3-[3-(3-thienyl)phenoxymethyl]benzyl alcohol was dissolved in 1 ml of ethyl acetate, and 45 microliters of methanesulfonyl chloride and 88 microliters of triethylamine were added with ice cooling and stirring. The reaction mixture was stirred for 1 hour. The precipitate was removed by filtration, and the organic layer was separated, then dried over anhydrous magnesium sulfate. The desiccant was separated by filtration, and the solvent was evaporated to give 3-[3-(3-thienyl)phenoxymethyl)benzyl methanesulfonate as a pale yellow oil.

reactant | 3-[3-(3-thienyl)phenoxymethyl]benzyl alcohol | 104 mg | S1C=C(C=C1)C=1C=C(OCC=2C=C(CO)C=CC2)C=CC1 | C18H16O2S
reactant | methanesulfonyl chloride | 45 microliters | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 88 microliters | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 3-[3-(3-thienyl)phenoxymethyl)benzyl methanesulfonate | CS(=O)(=O)OCC1=CC(=CC=C1)COC1=CC(=CC=C1)C1=CSC=C1 | C19H18O4S2
